US08633200B2
A solution of (2S)-ethyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(8-fluoro-5-methylchroman-6-yl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.025 g, 0.043 mmol) in MeOH (2 mL) was treated with 1.0 M NaOH (0.215 mL, 0.215 mmol) and the reaction was stirred with heating (75° C. oil bath) for 16 hrs. The reaction was concentrated under reduced pressure to give a white paste. This was partitioned between 0.1N HCl (5 mL) and CH2Cl2 (5 mL). The layers were separated and the organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure, affording an off-white solid. The product was purified by preparative-HPLC. Product fractions were pooled and concentrated to 1/2 volume and the resulting solid was extracted with CH2Cl2 (2×10 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure, affording the product, (2S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(8-fluoro-5-methylchroman-6-yl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (0.014 g, 0.024 mmol, 55.9% yield), as an off-white solid. 1H NMR (500 MHz, CDCl3) d: 7.69-7.64 (m, 1H), 7.57 (dt, J=7.0, 1.7 Hz, 1H), 7.36-7.28 (m, 2H), 6.89 (d, J=10.7 Hz, 1H), 5.06 (s, 1H), 4.30 (t, J=5.2 Hz, 2H), 2.77-2.69 (m, 5H), 2.53-2.48 (m, 3H), 2.14 (m, 2H), 1.91 (s, 3H), 1.21-1.17 (m, 9H). LCMS (M+H)=552.4. The following examples 159-164 were prepared according to the procedure for Example 158 using appropriate esters.

reactant | (2S)-ethyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(8-fluoro-5-methylchroman-6-yl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.043 mmol, 0.025 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2C)C2=CC(=CC=C2)Cl)C | C32H35ClFN3O4
reactant | NaOH | 0.215 mmol, 1.0 M, 0.215 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | (2S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-(8-fluoro-5-methylchroman-6-yl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.024 mmol, 0.014 g, 55.9% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2C)C2=CC(=CC=C2)Cl)C | C30H31ClFN3O4
